US06414144B1
C. Ethyl (2S)-2-[(1,2,3,3a,4,8b-Hexahydrocyclopenta[b]Indol-5-ylcarbonyl)-Amino]Propanoate
A solution of ethyl (2S)-2-[(1,2,3,4-tetrahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoate (8.4 mmol, 2.5 g) in ethanol (40 mL) was added to a mixture of 5% palladium on carbon (2 g) in ethanol (2 mL). Concentrated hydrochloric acid (10 mL) was added and the resulting mixture was hydrogenated at 45 psi for 4 hours. The reaction mixture was filtered through Celite. The filter bed was washed well with ethanol and the combined filtrates were concentrated. The resulting oil was partitioned between 1 N NaOH and ethyl acetate. The orgainc phase was dried over MgSO4, filtered and concentrated to yield an oil (1.9 g, 6.1 mmol, 73%).

reactant | ethyl (2S)-2-[(1,2,3,4-tetrahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoate | 8.4 mmol, 2.5 g | C1CCC=2NC=3C(=CC=CC3C21)C(=O)N[C@H](C(=O)OCC)C | C17H20N2O3
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | Ethyl (2S)-2-[(1,2,3,3a,4,8b-Hexahydrocyclopenta[b]Indol-5-ylcarbonyl)-Amino]Propanoate | 6.1 mmol, 1.9 g, 73% | C1CCC2NC=3C(=CC=CC3C21)C(=O)N[C@H](C(=O)OCC)C | C17H22N2O3
